US09376396B2
II.1.2 (3-tert-Butoxycarbonylamino-cyclobutyl)-acetic acid methyl ester
To a solution of (3-tert-butoxycarbonylamino-cyclobutylidene)-acetic acid methyl ester (7 g, 29 mmol) in methanol (100 mL) was added Pd/C (5 g) and stirred at room temperature under H2 balloon overnight. After TLC showed the reaction was completed, the mixture was filtered over Celite. The filtrate was concentrated under reduced pressure to give the title compound (7 g, yield 99%) as a white solid, which was used for the next step directly without further purification.

reactant | (3-tert-butoxycarbonylamino-cyclobutylidene)-acetic acid methyl ester | 29 mmol, 7 g | COC(C=C1CC(C1)NC(=O)OC(C)(C)C)=O | C12H19NO4
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | (3-tert-Butoxycarbonylamino-cyclobutyl)-acetic acid methyl ester | 7 g, yield 99% | COC(CC1CC(C1)NC(=O)OC(C)(C)C)=O | C12H21NO4
